US04000153
In the manner given in Example 8, 2',5-dichloro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is reacted with a saturated solution of ammonia in methanol to give 8-chloro-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4] benzodiazepine of melting point 225°-228° C.

reactant | 2',5-dichloro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CBr)=O | C17H12BrCl2N3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 8-chloro-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C17H12Cl2N4
